US09422311B2
To a 100 mL round-bottom flask charged with the 4-((4-((4-(3-bromopropoxy)-3-chlorobenzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoic acid prepared above (13.0 mmol) was added CH2Cl2 (65 mL), and then N,N-diisopropylethylamine (7.95 mL, 45.5 mmol). The flask was cooled with a 0° C. bath. To the solution was added tert-butyl(3-amino-2,2-dimethylpropyl)carbamate (3.16 g, 15.6 mmol), and then 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 6.43 g, 16.9 mmol). The bath was removed and the solution was allowed to warm to room temperature with stirring for 1 h. The solution was transferred to a 1 L separatory funnel and was diluted with EtOAc (500 mL). The solution was washed with aq. 2M HCl (2×100 mL), and then with sat. aq. NaHCO3 (100 mL), and then with sat. aq. NaCl (100 mL). The organic solution was dried over MgSO4; filtered; and then concentrated in vacuo. The resulting solid residue was subjected to SiO2 chromatography (hexanes:EtOAc, 1:1) to afford tert-butyl(3-(4-((4-((4-(3-bromopropoxy)-3-chlorobenzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzamido)-2,2-dimethylpropyl)carbamate as a colorless solid (8.77 g, 81%). 1H NMR (400 MHz, CDCl3) δ 7.89 (d, J=8.5 Hz, 2H), 7.76-7.66 (m, 1H), 7.62 (dd, J=15.6, 8.5 Hz, 2H), 7.35 (s, 1H), 7.22-7.15 (m, 1H), 6.96-6.89 (m, 1H), 5.16-5.04 (m, 1H), 4.73 (dq, J=12.2, 8.4 Hz, 2H), 4.57 (d, J=5.3 Hz, 2H), 4.19-4.14 (m, 2H), 3.69-3.61 (m, 2H), 3.28-3.18 (m, 2H), 3.00-2.92 (m, 2H), 2.36 (sxt, J=5.8 Hz, 2H), 1.46 (d, J=2.0 Hz, 9H), 0.91 (d, J=3.3 Hz, 6H); MS m/z=774.25 (M+1)+.

reactant | 4-((4-((4-(3-bromopropoxy)-3-chlorobenzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoic acid | BrCCCOC1=C(C=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)O)C=C2)C=C1)Cl | C22H20BrClF3N5O4
reactant | N,N-diisopropylethylamine | 45.5 mmol, 7.95 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl(3-amino-2,2-dimethylpropyl)carbamate | 15.6 mmol, 3.16 g | C(C)(C)(C)OC(NCC(CN)(C)C)=O | C10H22N2O2
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 16.9 mmol, 6.43 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 65 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl(3-(4-((4-((4-(3-bromopropoxy)-3-chlorobenzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzamido)-2,2-dimethylpropyl)carbamate | 8.77 g, 81% | C(C)(C)(C)OC(NCC(CNC(C1=CC=C(C=C1)NC1=NC(=NC(=N1)NCC1=CC(=C(C=C1)OCCCBr)Cl)OCC(F)(F)F)=O)(C)C)=O | C32H40BrClF3N7O5
